US08030459B2
3-[5-Carboxypentylcarbamoyl]acrylic acid (14).
6-Aminocaproic acid (10.1 g, 81.6 mmol) was added to maleic anhydride (8.09 g, 82.6 mmol), in 100 mL of anhydrous DMF. The mixture was stirred at room temperature for 24 h and poured into 250 mL of water. White precipitate was filtered, washed with ether and dried (15 g, 86%). 1H NMR (DMSO-d6): δ 1.27-1.33 (2H, m), 1.45-1.54 (4H, m), 2.21 (2H, t, J=7.3), 3.18 (2H, q, J=6.7), 6.24 (1H, d, J=13.0), 6.42 (1H, d, J=12.5), 9.11 (1H, br s), 13.6 (1H, br).

reactant | 6-Aminocaproic acid | 81.6 mmol, 10.1 g | NCCCCCC(=O)O | C6H13NO2
reactant | maleic anhydride | 82.6 mmol, 8.09 g | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | water | 250 mL | O | H2O
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 3-[5-Carboxypentylcarbamoyl]acrylic acid | C(=O)(O)CCCCCNC(=O)C=CC(=O)O | C10H15NO5
